US05177106
5-[4-[[[(2,4-Difluorophenyl)amino]carbonyl]amino1-2,5-dimethylphenoxy]-2,2-dimethylpentanoic acid, methyl ester
5-(4-Amino-2,5-dimethylphenoxy)-2,2-dimethylpentanoic acid, methyl ester as the free base (Example 2) (4.15 g, 15 mmol) in 50 mL of toluene, 2.33 g (15 mmol) of 2,4-difluorophenyl isocyanate is added and the solution is stirred at 50° C. for 18 hours overnight. The solid mixture is evaporated on a rotary evaporator; the precipitate is taken up in acetonitrile, treated with charcoal, filtered, evaporated, and the residual, crystalline precipitate is recrystallized from 70 mL of toluene: 50 mL of isooctane to afford 5.7 g of the title compound as a slight pink solid; mp 152°-153° C.

reactant | 5-(4-Amino-2,5-dimethylphenoxy)-2,2-dimethylpentanoic acid, methyl ester | NC1=CC(=C(OCCCC(C(=O)OC)(C)C)C=C1C)C | C16H25NO3
reactant | 2,4-difluorophenyl isocyanate | 15 mmol, 2.33 g | FC1=C(C=CC(=C1)F)N=C=O | C7H3F2NO
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 5-[4-[[[(2,4-Difluorophenyl)amino]carbonyl]amino1-2,5-dimethylphenoxy]-2,2-dimethylpentanoic acid, methyl ester | 5.7 g | FC1=C(C=CC(=C1)F)NC(=O)NC1=CC(=C(OCCCC(C(=O)OC)(C)C)C=C1C)C | C23H28F2N2O4
